US05215986
Trifluoroacetic acid (1.05 g, 9.2 mmol) is added to a solution of 4,6-bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-2-pyrimidine carboxaldehyde (1.0 g, 3.1 mmol) in methylene chloride and the reaction mixture is stirred at room temperature for 5 hours. The reaction mixture is neutralized by the addition of saturated aqueous NaHCO3 and the layers separated. The organic layer is washed with brine (50 mL), dried over MgSO4, and evaporated. Recrystallization of the residue from hexane gives pure 4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxaldehyde (0.24 g, 33%); mp 187°-189° C.

reactant | Trifluoroacetic acid | 9.2 mmol, 1.05 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4,6-bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-2-pyrimidine carboxaldehyde | 3.1 mmol, 1.0 g | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C=O | C17H28N2O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxaldehyde | 0.24 g, 33% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=O | C13H20N2O2
